US04933355
Ethyl 2-diphenylmethylaminothiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 53, the desired compound was prepared from 10.1 g of 2-aminothiazol-4-ylglyoxylate, 10.0 g of diphenylmethyl chloride, 10 ml of triethylamine, 10 ml of dimethylformamide and 1.0 g of potassium iodide. The resulting product was a yellow powder having the following physical properties.

reactant | 2-aminothiazol-4-ylglyoxylate | 10.1 g | NC=1SC=C(N1)C(C(=O)[O-])=O
reactant | diphenylmethyl chloride | 10.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Cl | C13H11Cl
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-diphenylmethylaminothiazol-4-ylglyoxylate | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=O | C20H18N2O3S
